US07227038B2
a) 2-Chloro-5-ethenyl-N-(tricyclo[3.3.1.13,7 ]dec-1-ylmethyl)benzamide
A solution of 5-bromo-2-chloro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)benzamide (prepared as described in WO 00/61569) (1.0 g), tetrakis(triphenylphosphine)palladium(0) (96 mg) and tributylvinyltin (1.15 mL) in toluene (15 mL) was heated at reflux for 3 hours, then cooled to room temperature, diluted with acetone (30 mL) and treated with cesium fluoride (10% aq, 10 mL) at room temperature for 2 hours. The resulting mixture was filtered through celite with further washing with toluene and concentrated. Water was added and the mixture was extracted with ethyl acetate. The combined organic phases were washed with water, dried over anhydrous magnesium sulfate and concentrated. The resulting oil was purified by column chromatography (ethyl acetate:isohexane 100:1 to 80:20) to give the sub-titled compound as a white solid (0.87 g).

reactant | 5-bromo-2-chloro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)benzamide | 1.0 g | BrC=1C=CC(=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C1)Cl | C18H21BrClNO
reactant | tributylvinyltin | 1.15 mL | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | cesium fluoride | 10 mL | [F-].[Cs+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 30 mL | CC(=O)C | C3H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 96 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-5-ethenyl-N-(tricyclo[3.3.1.13,7 ]dec-1-ylmethyl)benzamide | 0.87 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)C=C | C20H24ClNO
